US07964679B2
Chloro(2,4,7-trimethylindenyl)dimethylsilane
7.24 g of 2,4,7 trimethylindene (45.8 mmol) were suspended in 70 ml of Et2O, cooled to 0° C., and to it were added 19.2 ml of a 2.5 M BuLi solution in hexane (48.0 mmol) with stirring. A slightly yellow cream is obtained. After allowing the reaction mixture to reach ambient temperature, additional 10 ml of Et2O were added, to improve stirring. After about 1 h the mixture was cooled again to 0° C. and 7.20 g of Me2SiCl2 (55.2 mmol, 1.2 eq) in 30 ml di THF, previously cooled to 0° C., were added to it. At the end of the addition, the reaction mixture was allowed to reach ambient temperature. At this point the reaction mixture, which appeared as a white suspension, was filtered to remove LiCl, and then all solvents and excess Me2SiCl2 were removed under reduced pressure to leave 11.8 g of pale yellow oil (98% yield).

reactant | 2,4,7 trimethylindene | 45.8 mmol, 7.24 g | CC=1CC2=C(C=CC(=C2C1)C)C | C12H14
reactant | BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 48.0 mmol | CCCCCC | C6H14
reactant | Me2SiCl2 | 55.2 mmol, 7.20 g, 1.2 eq | [Si](Cl)(Cl)(C)C | C2H6Cl2Si
solvent | Et2O | 70 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Et2O | 10 ml | CCOCC | C4H10O
product | Chloro(2,4,7-trimethylindenyl)dimethylsilane | 11.8 g, 98% yield | Cl[Si](C)(C)C1C(=CC2=C(C=CC(=C12)C)C)C | C14H19ClSi
